US07612092B2
2-Propyl 4-(4-(((4-fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylate
After dissolving 4-(4-(((4-fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid (84 mg, 0.19 mmol) in dimethylformamide (1 ml), there were added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (54 mg, 0.28 mmol), 1-hydroxy-1H-benzotriazole monohydrate (38 mg, 0.28 mmol), triethylamine (0.079 ml, 0.56 mmol) and 2-propanol (0.15 ml) while stirring on ice, and the mixture was stirred overnight at room temperature. The reaction solution was directly subjected to silica gel column chromatography (eluent—ethyl acetate), the fraction containing the target substance was concentrated, suspended in ethyl acetate and diluted with hexane, and the crystals were filtered out and blow-dried to obtain the title compound (15.0 mg, 0.03 mmol, 16%) as white crystals.

reactant | 4-(4-(((4-fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylic acid | 0.19 mmol, 84 mg | FC1=CC=C(NC(=O)NC2=CC=C(OC3=CC=NC4=CC(=C(C=C34)C(=O)O)OC)C=C2)C=C1 | C24H18FN3O5
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 0.28 mmol, 54 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole monohydrate | 0.28 mmol, 38 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 0.56 mmol, 0.079 ml | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | 2-propanol | 0.15 ml | CC(C)O | C3H8O
product | 2-Propyl 4-(4-(((4-fluoroanilino)carbonyl)amino)phenoxy)-7-methoxy-6-quinolinecarboxylate | 0.03 mmol, 15.0 mg, 16% | FC1=CC=C(NC(=O)NC2=CC=C(OC3=CC=NC4=CC(=C(C=C34)C(=O)OC(C)C)OC)C=C2)C=C1 | C27H24FN3O5
